US06403639B1
1.05 g of 1,4-diacetoxy-2-t-butyl-6-methylbenzene was dissolved in 10 ml of ethanol and 2 ml of an aqueous solution containing 0.23 g of sodium hydrosulfite and 0.17 g of sodium hydroxide was added dropwise with stirring at 0° C. The reaction solution was neutralized with 1N hydrochloric acid, and then combined with water and extracted with ethyl acetate. The organic layers were dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 10% ethyl acetate) to give 0.44 g of 4-acetoxy-3-t-butyl-5-methylphenol as a pale yellow oil (yield 50%).

reactant | 1,4-diacetoxy-2-t-butyl-6-methylbenzene | 1.05 g | C(C)(=O)OC1=C(C=C(C=C1C)OC(C)=O)C(C)(C)C | C15H20O4
reactant | sodium hydrosulfite | 0.23 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 0.17 g | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-acetoxy-3-t-butyl-5-methylphenol | 0.44 g, yield 50% | C(C)(=O)OC1=C(C=C(C=C1C)O)C(C)(C)C | C13H18O3
